US06897231B2
SYNTHESIS OF 3-{3-[2-(3,4-DIFLUOROPHENYL) ACETYLAMINO]PHENYL}-1H-INDAZOLE-5-CARBOXAMIDE
Following Example 290, the reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (200 mg, 0.56 mmol) with 3,4-difluorophenylacetic acid (0.12 g, 0.71 mmol) and EDCI (0.17 g, 0.89 mmol) furnished 25 mg (10% yield) of the title compound. 1H NMR (DMSO-d6) δ 13.4 (s, 1H), 10.4 (s, 1H), 8.6 (s, 1H), 8.2 (s, 1H), 8.1 (br s, 1H), 7.9 (d, 1H), 7.75 (m, 2H), 7.6 (d, 1H), 7.52-7.3 (m, 4H), 7.2 (m, 1H), 3.7 (s, 2H); ES-MS (m/z) 407 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.56 mmol, 200 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | 3,4-difluorophenylacetic acid | 0.71 mmol, 0.12 g | FC=1C=C(C=CC1F)CC(=O)O | C8H6F2O2
reactant | EDCI | 0.89 mmol, 0.17 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-{3-[2-(3,4-DIFLUOROPHENYL) ACETYLAMINO]PHENYL}-1H-INDAZOLE-5-CARBOXAMIDE | 25 mg, 10% yield | FC=1C=C(C=CC1F)CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C22H16F2N4O2
